US03989503
Preparation of 2,2,5-trimethyl-3(2',3'-dibromopropionyl)oxazolidine
Fourteen (14 ml.) milliliters of a benzene solution containing 3.5 g. of 2,2,5-trimethyl oxazolidine was added to 25 ml. of benzene and 3.5 g. of triethylamine. Seven and one-half (7.5 g.) grams of 2,3-dibromopropionyl chloride was added dropwise with stirring and cooling in an ice bath. When reaction was complete, the mixture was poured into water and the benzene layer separated, dried over anhydrous magnesium sulfate and the solvent stripped under vacuum. The yield was 5.7 g. of an oil, nD30 = 1.5060.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 2,2,5-trimethyl oxazolidine | CC1(OC(CN1)C)C | C6H13NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2,3-dibromopropionyl chloride | BrC(C(=O)Cl)CBr | C3H3Br2ClO
solvent | water | O | H2O
product | 2,2,5-trimethyl-3(2',3'-dibromopropionyl)oxazolidine | CC1(OC(CN1C(C(CBr)Br)=O)C)C | C9H15Br2NO2
